US07593820B2
4-(5-tert-Butyl-2-phenyl-1H-pyrrol-3-yl)pyridin-2(1H)-one
A solution of 2-(2-fluoropyridin-4-yl)-5,5-dimethyl-1-phenylhexane-1,4-dione (200 mg, 0.6 mmol) and ammonium acetate (329 mg, 3.8 mmol) in acetic acid (3 mL) was heated at reflux for 18 h. Upon cooling to RT the solution was slowly added to a mixture of sat'd aqueous NaHCO3 (40 mL) and EtOAc (40 mL). The mixture was stirred for 15 min. and the organic layer then collected. The aqueous layer was extracted with ethyl acetate (25 mL) and the organic layers combined, washed with sat'd aqueous NaHCO3, H2O and brine, dried (MgSO4) and concentrated. The product was purified by flash chromatography using EtOAc-MeOH (100:0→95:5) as eluant to give the pure product as a cream solid (144 mg, 78%).

reactant | 2-(2-fluoropyridin-4-yl)-5,5-dimethyl-1-phenylhexane-1,4-dione | 0.6 mmol, 200 mg | FC1=NC=CC(=C1)C(C(=O)C1=CC=CC=C1)CC(C(C)(C)C)=O | C19H20FNO2
reactant | ammonium acetate | 3.8 mmol, 329 mg | C(C)(=O)[O-].[NH4+]
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
reactant | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 4-(5-tert-Butyl-2-phenyl-1H-pyrrol-3-yl)pyridin-2(1H)-one | 144 mg, 78% | C(C)(C)(C)C1=CC(=C(N1)C1=CC=CC=C1)C1=CC(NC=C1)=O | C19H20N2O
